US05952331
1,6-Difluoronaphthalene (0.164 g, 1.0 mmol) was dissolved in 1,2-dichloroethane (5 mL) and cooled to 0° C. Aluminum trichloride (0.264 g, 2.0 mmol) was added as a solid to the solution. Acetic anhydride (0.1 mL, 1.0 mmol) was added slowly over 20 minutes to the solution while maintaining a temperature of 0° C. The reaction was poured onto ice-cold 10% aqueous hydrochloric acid and extracted with methylene chloride (2×10 mL). The organic layer was dried over sodium sulfate, concentrated, and purified by column chromatography to give 1-(4,7-difluoronaphth-1-yl)-ethanone as an oil (0.165 g, 80%).

reactant | 1,6-Difluoronaphthalene | 1.0 mmol, 0.164 g | FC1=CC=CC2=CC(=CC=C12)F | C10H6F2
reactant | Aluminum trichloride | 2.0 mmol, 0.264 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Acetic anhydride | 1.0 mmol, 0.1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 1-(4,7-difluoronaphth-1-yl)-ethanone | 0.165 g, 80% | FC1=CC=C(C2=CC(=CC=C12)F)C(C)=O | C12H8F2O
